US04075225
A suspension of 25 g. (0.070 mole) of 2,3-dibromo-6,11-dihydro-5 H-pyrrolo[2,1-b][3]benzazepin-11-one in 200 ml. ethanol containing 25 ml. of triethylamine and 1 gm. of 10% Pd on charcoal was hydrogenated under 3 atmospheres of hydrogen to yield 6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one, m.p. 54°-55° C. after removal of catalyst, recrystallization from petroleum ether and drying under vacuum. The same compound is also obtained by hydrogenolysis of the 2,3-dichloro ketone and the 1,2,3-tribromoketone.

reactant | 2,3-dibromo-6,11-dihydro-5 H-pyrrolo[2,1-b][3]benzazepin-11-one | 0.070 mole | BrC=1C=C2C(C3=C(CCN2C1Br)C=CC=C3)=O | C13H9Br2NO
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one | C=1C=CN2C1C(C1=C(CC2)C=CC=C1)=O | C13H11NO
